US04443447
A mixture of 11.5 g of ethyl 2,3-dihydro-3-methyl-7-oxo-10-phenyl-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylate and 75 ml of glacial acetic acid was heated to reflux temperature and 75 ml of 6 N hydrochloric acid was subsequently added. Refluxing was continued for one hour after which time 150 ml of water was added. The solution was cooled and filtered to provide light brown solid 2,3-dihydro-3-methyl-7-oxo-10-phenyl-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid, m.p. 295°-296° C. Recrystallization from aqueous N,N-dimethylformamide gave light yellow crystals. Analysis: Calculated for C19H15NO4 : %C, 71.0; %H, 4.7; %N, 4.4; Found: %C, 70.4; %H, 4.6; %N, 4.3. The structural assignment was confirmed by infrared and nuclear magnetic resonance spectral analyses.

reactant | ethyl 2,3-dihydro-3-methyl-7-oxo-10-phenyl-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylate | 11.5 g | CC1COC=2C=3N1C=C(C(C3C=CC2C2=CC=CC=C2)=O)C(=O)OCC | C21H19NO4
reactant | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 6 N, 75 ml | Cl | ClH
solvent | water | 150 ml | O | H2O
product | 2,3-dihydro-3-methyl-7-oxo-10-phenyl-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid | CC1COC=2C=3N1C=C(C(C3C=CC2C2=CC=CC=C2)=O)C(=O)O | C19H15NO4
